US07960394B2
(1) Production of tert-butyl 4-[4-(ethoxycarbonyl)phenoxy]tetrahydro-1(2H)-pyridinecarboxylate
Ethyl 4-hydroxybenzoate (4.15 g, 25.0 mmol), tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate (5.0 g, 25.0 mmol) and triphenyl phosphine (7.87 g, 30.0 mmol) were dissolved in tetrahydrofuran (50 mL), and with stirring at 0° C., diisopropyl azodicarboxylate (6.06 g, 30.0 mmol) was added thereto and stirred for 24 hours. The reaction solution was concentrated, and the precipitated white solid was taken out through filtration and washed with ethyl acetate. The mother liquid was washed with aqueous 1 N sodium hydroxide solution and saturated saline water in that order, and the organic layer was dried with magnesium sulfate. The solvent was evaporated off, and the residue was purified through silica gel column chromatography (hexane/ethyl acetate=9/1) to obtain the intended compound (5.45 g, 62%) as a colorless solid.

reactant | Ethyl 4-hydroxybenzoate | 25.0 mmol, 4.15 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | tert-butyl 4-hydroxytetrahydro-1(2H)-pyridinecarboxylate | 25.0 mmol, 5.0 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triphenyl phosphine | 30.0 mmol, 7.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 30.0 mmol, 6.06 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-[4-(ethoxycarbonyl)phenoxy]tetrahydro-1(2H)-pyridinecarboxylate | 5.45 g, 62% | C(C)OC(=O)C1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C19H27NO5
